datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O:21][H:20].O=S(=O)(c1ccc(O)cc1)[N-:10]c1ncccn1>>O=C(O)C[NH+](CCNS(=O)(=O)c1ccc(CCBr)cc1)CC(=O)[O-:21].O=S(=O)(c1ccc(O)cc1)[N:10](c1ncccn1)[H:20] 10=20;20,21=21",
"C1CC[NH+](CC[N:10]2CCCCC2)CC1.O=C(Cc1[nH]c2ccccc2[nH+]1)[O:21][H:20]>>C1CC[NH+](CC[N+:10]2([H:20])CCCCC2)CC1.O=C(Cc1[nH]c2ccccc2[nH+]1)[O-:21] 10=20;20,21=21",
"CN1C=N/C(=[O+:21]\[H:20])C(c2ccccc2)=C1.O=[N+]([O-])c1[nH]c[n:10]c1Cl>>CN1C=NC(=[O:21])C(c2ccccc2)=C1.O=[N+]([O-])c1[nH]c[n+:10]([H:20])c1Cl 10=20;20,21=21",
"C[S+](C)c1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[S+](C)c1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH:10]CC(=O)[O-].N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CCCC[NH+:10](CC(=O)[O-])[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CCC(=O)C(CC[N:10]1CCCCC1)(c1ccccc1)c1ccccc1.O=C([C@@H]1C[C@@H](O)C[NH2+]1)[O:21][H:20]>>CCC(=O)C(CC[N+:10]1([H:20])CCCCC1)(c1ccccc1)c1ccccc1.O=C([C@@H]1C[C@@H](O)C[NH2+]1)[O-:21] 10=20;20,21=21",
"Cc1cccc(CO)[n+:21]1[H:20].Nc1nc(N)[n:10]c(N)n1>>Cc1cccc(CO)[n:21]1.Nc1nc(N)[n+:10]([H:20])c(N)n1 10=20;20,21=21",
"C#CC(C)(C)[NH+:21](C(C)(C)CC)[H:20].O=C1C(=C2C=CC=C[N-:10]2)C(=O)c2cc([N+](=O)[O-])ccc21>>C#CC(C)(C)[NH:21]C(C)(C)CC.O=C1C(=C2C=CC=C[N:10]2[H:20])C(=O)c2cc([N+](=O)[O-])ccc21 10=20;20,21=21",
"Nc1cc2ccccc2n[n:10]1.[NH3+]c1ccc(O[C@H]2O[C@@H](C(=O)[O:21][H:20])[C@H](O)[C@@H](O)[C@@H]2O)cc1>>Nc1cc2ccccc2n[n+:10]1[H:20].[NH3+]c1ccc(O[C@H]2O[C@@H](C(=O)[O-:21])[C@H](O)[C@@H](O)[C@@H]2O)cc1 10=20;20,21=21",
"COC(=O)CSC(C)[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])C=C1>>COC(=O)CSC(C)[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)C=C1 10=20;20,21=21",
"Nc1c2ccccc2s[n:10]1.c1cc(C2CCCCN2)c[n+:21]([H:20])c1>>Nc1c2ccccc2s[n+:10]1[H:20].c1cc(C2CCCCN2)c[n:21]c1 10=20;20,21=21",
"[H:20][OH:21].C1[C@@H]2[C@H](C3=C1C=CC=C3)N4[C-:10]=[N+](N=C4CO2)C5=CC=CC=C5>>[H:20][C:10]1=[N+](N=C2N1[C@@H]3[C@@H](CC4=C3C=CC=C4)OC2)C5=CC=CC=C5.[OH-:21] 10=20;20,21=21",
"C1CCC2C[NH:10]CCC2C1.O/C(c1cccc[nH+]1)=[O+:21]/[H:20]>>C1CCC2C[NH+:10]([H:20])CCC2C1.OC(c1cccc[nH+]1)=[O:21] 10=20;20,21=21",
"COc1ccc(OC)c2c1n(C)c(C)[n+:21]2[H:20].Oc1ccc2ccn[n:10]c2c1>>COc1ccc(OC)c2c1n(C)c(C)[n:21]2.Oc1ccc2ccn[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC1c2cc(O)ccc2CC1CC(=O)[O-:10].Cc1cccc(C)c1C(c1ccccc1)=[N+:21](CCC[NH+](C)C)[H:20]>>CC1c2cc(O)ccc2CC1CC(=O)[O:10][H:20].Cc1cccc(C)c1C(c1ccccc1)=[N:21]CCC[NH+](C)C 10=20;20,21=21",
"Nc1nc(NCO)[n+:21]([H:20])c(NCO)n1.OCc1cc[n:10]cc1>>Nc1nc(NCO)[n:21]c(NCO)n1.OCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCCCNc1ncnc2c1cn[n:21]2[H:20].NC(Nc1nc(N)nc(N)n1)=[NH:10]>>CCCCNc1ncnc2c1cn[n-:21]2.NC(Nc1nc(N)nc(N)n1)=[NH+:10][H:20] 10=20;20,21=21",
"NC1CC[NH:10]CC1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NC1CC[NH+:10]([H:20])CC1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C1NOCC1[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1NOCC1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C)[NH+:21](CC(=O)[O-])[H:20].CCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10]>>CC(C)[NH:21]CC(=O)[O-].CCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20] 10=20;20,21=21",
"CCn1c[n+:21]([H:20])cn1.Cc1cc(-n2c(C)cc(C)[n:10]2)[nH]n1>>CCn1c[n:21]cn1.Cc1cc(-n2c(C)cc(C)[n+:10]2[H:20])[nH]n1 10=20;20,21=21",
"CC(C)(C)c1cc([N+](=O)[O-])cc(C(C)(C)C)c1[O:21][H:20].N#CC(CC(=O)[O-:10])Cc1ccccc1>>CC(C)(C)c1cc([N+](=O)[O-])cc(C(C)(C)C)c1[O-:21].N#CC(CC(=O)[O:10][H:20])Cc1ccccc1 10=20;20,21=21",
"CC(=O)N(C)c1ccc[n+:21]([H:20])c1.CC(=O)c1cccc([O-:10])c1>>CC(=O)N(C)c1ccc[n:21]c1.CC(=O)c1cccc([O:10][H:20])c1 10=20;20,21=21",
"CCCC(C(CC)CO)C(CC)C(=O)[O-:10].Nc1ccc(S(=O)(=O)[N:21](c2ncco2)[H:20])cc1>>CCCC(C(CC)CO)C(CC)C(=O)[O:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]c2ncco2)cc1 10=20;20,21=21",
"C1CNC(=[O+:21][H:20])N1.O=C(C(O)(c1ccccc1)c1ccccc1)[O-:10]>>C1CNC(=[O:21])N1.O=C(C(O)(c1ccccc1)c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CCOc1ccc2c(c1)c([C@@H](O)[C@@H]1C[C@H]3CC[NH+]1C[C@@H]3CC)cc[n:10]2.Oc1cccc2c1ccn[n+:21]2[H:20]>>CCOc1ccc2c(c1)c([C@@H](O)[C@@H]1C[C@H]3CC[NH+]1C[C@@H]3CC)cc[n+:10]2[H:20].Oc1cccc2c1ccn[n:21]2 10=20;20,21=21",
"CCCCCC(C)(C)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CCCCCC(C)(C)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"Cc1n[n+:21]([H:20])c2c(c1C)CCC2.Nc1n[nH]c(N)c1/N=N/c1ccccc1[O-:10]>>Cc1n[n:21]c2c(c1C)CCC2.Nc1n[nH]c(N)c1/N=N/c1ccccc1[O:10][H:20] 10=20;20,21=21",
"COC(=O)[n+]1ccc([NH:21][H:20])cc1.O/N=C/c1ccc([O-:10])cc1O>>COC(=O)[n+]1ccc([NH-:21])cc1.O/N=C/c1ccc([O:10][H:20])cc1O 10=20;20,21=21",
"CC(O)C(=O)[O:21][H:20].CCOc1cc[n:10]c([O-])n1>>CC(O)C(=O)[O-:21].CCOc1cc[n+:10]([H:20])c([O-])n1 10=20;20,21=21",
"Cn1nc([N+](=O)[O-])nc1[N-:10]N=O.O=[N+]([O-])c1cc(Cl)c([NH2+:21][H:20])c(Cl)c1>>Cn1nc([N+](=O)[O-])nc1[N:10](N=O)[H:20].O=[N+]([O-])c1cc(Cl)c([NH2:21])c(Cl)c1 10=20;20,21=21",
